US09328099B2
1-[1-(Biphenyl-4-ylmethyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
Biphenyl-4-carbaldehyde (12 mg, 0.070 mmol) was treated with a solution of 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-2) (20 mg, 0.050 mmol) and TFA (0.020 mL, 0.23 mmol) in DMF (0.65 mL). The resulting solution was then treated with MP-(OAc)3BH (80 mg, 0.16 mmol). The resulting mixture was shaken at ambient temperature for 16 hours on an orbital shaker. The mixture was then filtered through a 0.45 micron fit and the fit was washed with DMSO (1.0 mL). The filtrate was then purified directly by reverse-phase preparative HPLC (using a gradient elution of 5-95% MeCN/water, with 0.1% v/v NH4OH modifier). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound, Example #21-1.

reactant | Biphenyl-4-carbaldehyde | 0.070 mmol, 12 mg | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate | 0.050 mmol, 20 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC=CC=C1
reactant | TFA | 0.23 mmol, 0.020 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 0.65 mL | CN(C)C=O | C3H7NO
product | 1-[1-(Biphenyl-4-ylmethyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C1(=CC=C(C=C1)CN1CCC(CC1)(CC#N)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1)C1=CC=CC=C1 | C30H30N6O
